US08957074B2
Following general N—C coupling procedure 1, 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (5.0 g, 17 mmol) was combined with methyl 6-aminonicotinate (2.86 g, 1.10 eq) which gave methyl 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinate (6.6 g) in 94% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.33 (s, 1H), 8.89 (s, 1H), 8.83 (d, J=2.1 Hz, 1H), 8.44 (d, J=8.9 Hz, 1H), 8.22 (dd, J=8.9, 2.2 Hz, 1H), 6.67 (s, 1H), 4.77 (m, 1H), 3.86 (s, 3H), 3.06 (s, 6H), 2.42 (m, 2H), 2.00 (m, 4H), 1.68 (m, 2H); MS m/z 409.4 (M+H)+.

reactant | 2-chloro-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 17 mmol, 5.0 g | ClC=1N=CC2=C(N1)N(C(=C2)C(=O)N(C)C)C2CCCC2 | C14H17ClN4O
reactant | methyl 6-aminonicotinate | 2.86 g, 1.10 eq | NC1=NC=C(C(=O)OC)C=C1 | C7H8N2O2
product | methyl 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinate | 6.6 g, 94% yield | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)OC)C=C2)C(N(C)C)=O | C21H24N6O3
